US07074819B2
To a solution of 5,5-dimethoxy-1-(4,4,5,5,5-pentafluoropentylthio)pentane (460 mg, 1.4 mmol) in methanol (10 mg) were added sodium periodate (420 mg, 2.0 mmol) dissolved in water (8 ml) and methanol (5 ml), and the resulting mixture was stirred at room temperature for 2 hours. After the reaction was completed, the reaction solution was poured into water and extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate, and concentrated under reduced pressure to give a crude product. This crude product thus obtained was subjected to silica gel column chromatography (n-hexane:ethyl acetate=2:1) to give 5,5-dimethoxy-1-(4,4,5,5,5-pentafluoropentylsulfinyl)pentane (365 mg, yield 76%).

reactant | 5,5-dimethoxy-1-(4,4,5,5,5-pentafluoropentylthio)pentane | 1.4 mmol, 460 mg | COC(CCCCSCCCC(C(F)(F)F)(F)F)OC | C12H21F5O2S
reactant | sodium periodate | 2.0 mmol, 420 mg | I(=O)(=O)(=O)[O-].[Na+]
reactant | n-hexane | CCCCCC | C6H14
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | 10 mg | CO | CH4O
solvent | water | 8 ml | O | H2O
solvent | methanol | 5 ml | CO | CH4O
product | 5,5-dimethoxy-1-(4,4,5,5,5-pentafluoropentylsulfinyl)pentane | 365 mg, yield 76% | COC(CCCCS(=O)CCCC(C(F)(F)F)(F)F)OC | C12H21F5O3S
